* Ferrite Bead Model (600 Ohm @ 100MHz)
* R_dcr: Series DC Resistance
* R_ac: Parallel Resistor (Determines max Z)
* L_f: Inductance (low frequency)
* C_p: Parasitic Capacitance (high frequency resonance)
.subckt FERRITE_600R_100M 1 2
R_dcr 1 3 0.3
L_f   3 4 1.2u
R_ac  3 4 600
C_p   3 4 2pF
.ends
