* Linear potentiometer
* Nodes: 1=top, 2=wiper, 3=bottom
* Parameters:
*   Rtot = total resistance
*   w    = wiper position (0..1)

.SUBCKT POT 1 2 3 PARAMS: Rtot=100k w=0.5

Rtop 1 2 {Rtot*(1-w)}
Rbot 2 3 {Rtot*w}

.ENDS POT

